US04491628
A solution of 21.7 g of p-hydroxybenzaldehyde in dry THF was treated with 19.94 g of potassium t-butoxide under a nitrogen atmosphere. After stirring for a few minutes at room temperature, 42.8 g of di-t-butyl dicarbonate were added and the mixture was stirred for another hour at room temperature. Thin layer chromatography showed that the reaction was complete and the mixture was poured into ice water. The product was extracted with ethyl acetate, washed with water and dried over magnesium sulfate. Evaporation of the solvent afforded 39 g (99%) of a crude material which can be used directly for the preparation of p-t-butoxycarbonyloxystyrene. Alternately, the product was purified by preparative HPLC to afford the pure material, p-t-butoxycarbonyloxybenzaldehyde.

reactant | p-hydroxybenzaldehyde | 21.7 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium t-butoxide | 19.94 g | CC(C)([O-])C.[K+]
reactant | di-t-butyl dicarbonate | 42.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | p-t-butoxycarbonyloxystyrene | C(C)(C)(C)OC(=O)OC1=CC=C(C=C)C=C1 | C13H16O3
solvent | THF | C1CCOC1 | C4H8O
product | p-t-butoxycarbonyloxybenzaldehyde | C(C)(C)(C)OC(=O)OC1=CC=C(C=O)C=C1 | C12H14O4
